US08309721B2
Synthesis of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-(2-fluoroethylamino)benzamide
The process is carried out as in stage 3 of Example 3, but using 500 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 493 mg of potassium carbonate, 1.78 g of 2-fluoroethylamine hydrochloride and 1.805 g of triethylamine in 5 ml of dimethyl sulphoxide. 2.26 ml of a 1M aqueous solution of sodium hydroxide, 2.19 ml of a 30% aqueous solution of hydrogen peroxide and 10 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ethanol (95/5 by volume), followed by crystallization from 1 ml of ethyl acetate, 390 mg of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-(2-fluoroethylamino)benzamide are thus obtained in the form of a beige solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile | 500 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 493 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroethylamine hydrochloride | 1.78 g | Cl.FCCN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | triethylamine | 1.805 g | C(C)N(CC)CC | C6H15N
product | 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-(2-fluoroethylamino)benzamide | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3N(C4=CC=CC=C4C23)C2=CC(=C(C(=O)N)C=C2)NCCF)C1 | C28H21F2N5O
